US07595325B2
1-[4-(4-Amino-7-isopropyl-7H-pyrrolo[2,3-d]pyrimidine-5-carbonyl)-6-methoxy-pyridin-2-yl]-3-(2-fluoro-phenyl)-urea
1-Fluoro-2-isocyanato-benzene (0.04 mL, 0.37 mmol) was added to a solution of (4-isopropyl-Amino-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-(2-amino-6-methoxy-pyridin-4-yl)-methanone (0.10 g, 0.31 mmol) in pyridine (2 mL) and stirred in a sealed tube for 2 h at room temperature. The reaction mixture was quenched with water (100 mL) and extracted with hot EtOAc/MeOH (95:5, 3×100 mL). The combined organic extracts were dried (Na2SO4), filtered, and concentrated in vacuo. Purification by flash column chromatography (ethyl acetate/MeOH 99:1) afforded the title compound as a yellow solid (132 mg, 93%). MS: 464.2 (MH+); HPLC Rf: 1.7 min. (HPLC method 2); HPLC purity: 100%.

reactant | 1-Fluoro-2-isocyanato-benzene | 0.37 mmol, 0.04 mL | FC1=C(C=CC=C1)N=C=O | C7H4FNO
reactant | (4-isopropyl-Amino-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-(2-amino-6-methoxy-pyridin-4-yl)-methanone | 0.31 mmol, 0.10 g | C(C)(C)C=1C2=C(N=C(N1)N)NC=C2C(=O)C2=CC(=NC(=C2)OC)N | C16H18N6O2
reactant | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
product | 1-[4-(4-Amino-7-isopropyl-7H-pyrrolo[2,3-d]pyrimidine-5-carbonyl)-6-methoxy-pyridin-2-yl]-3-(2-fluoro-phenyl)-urea | 132 mg, 93% | NC=1C2=C(N=CN1)N(C=C2C(=O)C2=CC(=NC(=C2)OC)NC(=O)NC2=C(C=CC=C2)F)C(C)C | C23H22FN7O3
